US07858621B2
Step 1: Synthesis of 3-(6-trifluoromethyl-2-trimethylsilanylethynyl-pyridin-3-yl)-acrylic acid ethyl ester
Microwave vial was charged with 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester (103 mg, 0.368 mmol), Pd(PPh3)2Cl2 (0.06 eq), CuI (0.06 eq), PPh3 (0.2 eq), Et3N (15 eq), (trimethylsilyl)acetylene and DMF (0.25 ml). The vial was irradiated in microwave synthesizer at 120° C. for 25 min. The contents of the vial were filtered through a Celite pad, which was washed out thoroughly with EtOAc. The filtrate was evaporated, and the residue was purified by column chromatography to 3-(6-trifluoromethyl-2-trimethylsilanylethynyl-pyridin-3-yl)-acrylic acid ethyl ester (58 mg, 46%).

reactant | 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester | 0.368 mmol, 103 mg | C(C)OC(C=CC=1C(=NC(=CC1)C(F)(F)F)Cl)=O | C11H9ClF3NO2
reactant | PPh3 | 0.2 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Et3N | 15 eq | CCN(CC)CC | C6H15N
reactant | (trimethylsilyl)acetylene | C[Si](C)(C)C#C | C5H10Si
catalyst | Pd(PPh3)2Cl2 | 0.06 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.06 eq | [Cu]I
solvent | DMF | 0.25 ml | CN(C)C=O | C3H7NO
product | 3-(6-trifluoromethyl-2-trimethylsilanylethynyl-pyridin-3-yl)-acrylic acid ethyl ester | C(C)OC(C=CC=1C(=NC(=CC1)C(F)(F)F)C#C[Si](C)(C)C)=O | C16H18F3NO2Si
